US07626021B2
A solution of 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-methoxy-phenyl)-indazol-1-ylmethyl ester (0.5 g, 1 mmol) in dichloromethane (10 ml) was stirred at 0° C. for 15 minutes. Then phosgene (673 μl, 1.2 mmol; 20% in toluene) was added and after 1 minute trimethylamine (201 μl, 1.4 mmol), followed by dimethylamine (722 pt, 1.4 mmol; 2 M in THF). The mixture was allowed to stir until the ice melted and then at room temperature for another hour. The crude was worked up by removing solvent and purified on silica chromatography. The resulting product was dissolved in ethanol (6 ml) and 2 M aqueous NaOH (2 ml). The mixture was stirred at room temperature for 4 hours or until no more starting material remained. The solvent was removed under reduced pressure. The crude was neutralized with 1 N HCl and purified on reverse phase HPLC to afford 2-(3,3-dimethyl-ureido)-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide (94 mg, 21% yield). 1H NMR (500 MHz, DMSO-d6) δ 2.91 (s, 6H), 3.01 (s, 6H), 3.84 (s, 3H), 7.09 (m, 1H), 7.22 (d, 1H), 7.46 (m, 1H), 7.65 (d, 1H), 7.69 (s, 1H), 7.77 (d, 1H), 7.96 (d, 1H), 8.32 (s, 1H), 8.64 (s, 1H), 8.85 (s, 1H), 13.80 (s, 1H). MS: m/z 459.2 (M+H+).

reactant | 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-methoxy-phenyl)-indazol-1-ylmethyl ester | 1 mmol, 0.5 g | NC1=C(C=C(C=C1)C=1C=C2C(=NN(C2=CC1)COC(C(C)(C)C)=O)C1=C(C=CC=C1)OC)C(N(C)C)=O | C29H32N4O4
reactant | phosgene | 1.2 mmol, 673 μl | C(=O)(Cl)Cl | CCl2O
reactant | trimethylamine | 1.4 mmol, 201 μl | CN(C)C | C3H9N
reactant | dimethylamine | 1.4 mmol, 2 M | CNC | C2H7N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3,3-dimethyl-ureido)-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 94 mg, 21% yield | CN(C(NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)=O)C | C25H26N6O3
